US05108747
Step D1 : p-Nitrobenzyl 2-[4-chloro-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-4,4-dimethyl-3-oxo-pentanoate
660 μl of a solution of chlorine in carbon tetrachloride containing 850 mg in 10 ml are added at -60° C. to a solution of 244 mg (0.395 mmol) of p-nitrobenzyl 4,4-dimethyl-2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-3-oxo-pentanoate-p-nitrobenzoate in 16 ml of methylene chloride. The weakly yellow solution is stirred at -60° C. during the course of 2 hours and the solvent is removed in vacuo, 236 mg of a colorless non-crystalline solid being obtained. IR spectrum in CH2Cl2 : 2930, 2850, 1795, 1765, 1725, 1620, 1530, 1355 cm-1.

reactant | chlorine | ClCl | Cl2
reactant | p-nitrobenzyl 4,4-dimethyl-2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-3-oxo-pentanoate p-nitrobenzoate | 0.395 mmol, 244 mg | CC(C(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(C(C1SC)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)(C)C.[N+](=O)([O-])C1=CC=C(C(=O)[O-])C=C1
solvent | carbon tetrachloride | 850 mg | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 2-[4-chloro-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-4,4-dimethyl-3-oxo-pentanoate | ClC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C(C)(C)C)=O)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H28ClN3O11
